US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-{4-triethylsilyloxy-4-methyl-(2E)-pentenyloxy}-20-methylpregna-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene (103 mg, 0.180 mmol), 1-bromo-4-triethylsilyloxy-4-methyl-(2E)-pentene (211 mg, 0.719 mmol), sodium hydride (60% in oil, 43 mg, 1.08 mmol), 15-crown-5 (40 mg, 0.182 mmol) and tetrahydrofuran (3 ml) were subjected to reaction using a procedure similar to that of Example 5(1) (reflux under heating for 6 hours), worked up and purified by column chromatography (hexane:toluene=2:1) to give the titled compound (140 mg, 99%) as a colorless solid.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene | 0.180 mmol, 103 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H60O3Si2
reactant | 1-bromo-4-triethylsilyloxy-4-methyl-(2E)-pentene | 0.719 mmol, 211 mg | Br\C=C\CC(C)(C)O[Si](CC)(CC)CC | C12H25BrOSi
reactant | sodium hydride | 1.08 mmol, 43 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.182 mmol, 40 mg | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-{4-triethylsilyloxy-4-methyl-(2E)-pentenyloxy}-20-methylpregna-5,7,16-triene | 140 mg, 99% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)O\C=C\CC(C)(C)O[Si](CC)(CC)CC)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C46H84O4Si3
